US05569653
1,3-Bis-[4-(6-fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]-2-hydroxypropane dihydrochloride
A stirred mixture of 1-(2,3-epoxypropyl)-4-(6-fluoro-1,2-benzisoxazol-3-yl)piperidine (1.19 g, 4.3 mmol) and 4-(6-fluoro-1,2-benzisoxazol-3-yl)piperidine (0.95 g, 4.3 mmol) in isopropyl alcohol (50 ml) was heated at reflux for 1 hour, then stirred at 65° C. for 16 hours. The solvent was removed on a rotary evaporator. The solid residues were purified by flash chromatography over a silica gel column (SiO2, 35 g; eluted with methylene chloride, DCM, and CH3OH in DCM). The product thus obtained, weighed 2.55 g. This material was dissolved in ethanol and was treated with a solution of HCl (1M in ether). The salt collected weighed 2.35 g, m.p. >270° C. dec.

reactant | 1-(2,3-epoxypropyl)-4-(6-fluoro-1,2-benzisoxazol-3-yl)piperidine | 4.3 mmol, 1.19 g | O1C(CN2CCC(CC2)C2=NOC3=C2C=CC(=C3)F)C1 | C15H17FN2O2
reactant | 4-(6-fluoro-1,2-benzisoxazol-3-yl)piperidine | 4.3 mmol, 0.95 g | FC1=CC2=C(C(=NO2)C2CCNCC2)C=C1 | C12H13FN2O
reactant | HCl | 1M | Cl | ClH
solvent | isopropyl alcohol | 50 ml | C(C)(C)O | C3H8O
solvent | ethanol | C(C)O | C2H6O
product | 1,3-Bis-[4-(6-fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]-2-hydroxypropane dihydrochloride | Cl.Cl.FC1=CC2=C(C(=NO2)C2CCN(CC2)CC(CN2CCC(CC2)C2=NOC3=C2C=CC(=C3)F)O)C=C1 | InChI=1S/C27H30F2N4O3.2ClH/c28-19-1-3-22-24(13-19)35-30-26(22)17-5-9-32(10-6-17)15-21(34)16-33-11-7-18(8-12-33)27-23-4-2-20(29)14-25(23)36-31-27;;/h1-4,13-14,17-18,21,34H,5-12,15-16H2;2*1H
